US07271266B2
Step A: 5-(4-Chlorophenyl)-6-(2,4-dichlorophenyl)pyridin-2(1H)-one
An oven-dried round bottom flask equipped with a magnetic stir bar and a reflux condenser was charged with 0.365 g (0.93 mmol) of 5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid from the product of Step A in Example 32 and 5 mL of freshly distilled quinoline. The reaction mixture was stirred and heated to 235° C. under a nitrogen atmosphere for 3 hours then cooled to room temperature. The reaction mixture was partitioned between excess EtOAc and 1N HCl, separated and the organic layer was extracted again twice with 1N HCl. The organic layer was washed with saturated brine, dried (MgSO4), filtered and evaporated in vacuo. The residual amorphous solid was used directly in the next step without further purification.

reactant | 5-(4-chlorophenyl)-6-(2,4-dichlorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.93 mmol, 0.365 g | ClC1=CC=C(C=C1)C=1C=C(C(NC1C1=C(C=C(C=C1)Cl)Cl)=O)C(=O)O | C18H10Cl3NO3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 5-(4-Chlorophenyl)-6-(2,4-dichlorophenyl)pyridin-2(1H)-one | ClC1=CC=C(C=C1)C=1C=CC(NC1C1=C(C=C(C=C1)Cl)Cl)=O | C17H10Cl3NO
